US06114390
a) 2-Nitro-5-(2-phenylethoxy)-toluene
To a sodium ethoxide solution prepared from 15 g (0.652 Mol) of sodium and 500 ml of anhydrous ethanol were added, successively, 100 g (0.653 Mol) of 5-hydroxy-2-nitrotoluene and 90 ml (121.95 g=0.659 Mol) of 2-phenylethylbromide and the mixture was refluxed for 5 hours. A further 50 ml (0.366 Mol) of 2-phenylethylbromide were added and again the mixture was refluxed for 10 hours. The solvent was distilled off in vacuo, the residue was taken up in ether and extracted several times with dilute sodium hydroxide solution. The ethereal phase was evaporated down, the residue was stirred thoroughly with 400 ml of petroleum ether 35/60. The resulting crystals were suction filtered and washed with petroleum ether. Yield: 95.2 g (57% of theory) of slightly yellowish crystals, Mp. 70-72° C. IR (CH2Cl2): 1340, 1515 (NO2) cm-1

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.652 Mol, 15 g | [Na] | Na
reactant | 5-hydroxy-2-nitrotoluene | 0.653 Mol, 100 g | OC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H7NO3
reactant | 2-phenylethylbromide | 0.659 Mol, 90 ml, 121.95 g | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | 2-phenylethylbromide | 0.366 Mol, 50 ml | C1(=CC=CC=C1)CCBr | C8H9Br
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-Nitro-5-(2-phenylethoxy)-toluene | [N+](=O)([O-])C1=C(C=C(C=C1)OCCC1=CC=CC=C1)C | C15H15NO3
